US06603012B2
Preparation of (RS)-4-[2-(2,2,4,4-tetramethyl-chroman-6-yl)-heptyloxy]-benzoic Acid
550 mg of (RS)-methyl 4-[2-(2,2,4,4-tetramethyl-chroman-6-yl)-heptyloxy]-benzoate, dissolved in 40 ml THF/10 ml H2O/10 ml methanol, was treated with 600 mg of lithium hydroxide hydrate. The mixture was stirred at 40° C. for 6 hours. The mixture was diluted with 10 ml water and acidified to pH 2 with 1N hydrochloric. The resulting suspension was taken in 40 ml ether and the phases were separated. The aqueous phase was extracted with three portions of 20 ml ether. The combined extracts were dried over MgSO4. The solvent was removed in vacuo and the crude product was purified by trituration in acetonitrile, providing 510 mg of a pale yellow solid, m.p. 94-96° C.

reactant | (RS)-methyl 4-[2-(2,2,4,4-tetramethyl-chroman-6-yl)-heptyloxy]-benzoate | 550 mg | CC1(OC2=CC=C(C=C2C(C1)(C)C)C(COC1=CC=C(C(=O)OC)C=C1)CCCCC)C | C28H38O4
reactant | lithium hydroxide hydrate | 600 mg | O.[OH-].[Li+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
solvent | ether | 40 ml | CCOCC | C4H10O
product | (RS)-4-[2-(2,2,4,4-tetramethyl-chroman-6-yl)-heptyloxy]-benzoic Acid | 510 mg | CC1(OC2=CC=C(C=C2C(C1)(C)C)C(COC1=CC=C(C(=O)O)C=C1)CCCCC)C | C27H36O4
